### PR TITLE
[Merged by Bors] - feat(FreeGroup): `toWord` of multiplication by generators

### PR DESCRIPTION
**Pull request by vlad902**
Add lemmas unfolding how left-/right- multiplication by a generator behaves on the `toWord` representation of a FreeGroup element, and derive two lemmas about the position of an element inside a multiplied word that are used to derive a contradiction in #42677.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/GroupTheory/FreeGroup/Reduce.lean [hunk 1]
```diff
@@ -341,6 +341,64 @@ theorem isReduced_iff_reduce_eq : IsReduced L ↔ reduce L = L where
...
+  · grind
+
+@[to_additive]
+theorem toWord_inv_of_mul_eq (a : α) (x : FreeGroup α) :
+    ((of a)⁻¹ * x).toWord =
+      if x.toWord.head? = some ⟨a, true⟩ then x.toWord.tail else ⟨a, false⟩ :: x.toWord := by
+  simp [toWord_mul, invRev]
+  cases x.toWord
+  · simp
+  · grind [invRev]
```
Comment (vlad902) [inline Mathlib/GroupTheory/FreeGroup/Reduce.lean:360]: These could be combined by stating it as
```lean4
@[to_additive]
theorem toWord_of_mul_eq (a : α) (b : Bool) (x : FreeGroup α) :
    (FreeGroup.mk [⟨a, b⟩] * x).toWord =
      if x.toWord.head? = some ⟨a, !b⟩ then x.toWord.tail else ⟨a, b⟩ :: x.toWord := by
```
at the cost of being stated slightly less conveniently in terms of FreeGroup.mk instead of FreeGroup.of

File: Mathlib/Data/List/Basic.lean [hunk 2]
```diff
@@ -598,6 +598,10 @@ theorem idxOf_getLast {l : List α} (hl : l ≠ []) (hl' : l.getLast hl ∉ l.dr
     contrapose hl'
     rwa [mem_dropLast_iff_idxOf_lt <| getLast_mem hl, ← Nat.not_le]
 
+theorem idxOf_tail_of_head_ne {a : α} (hl : l ≠ []) (ha : l.head hl ≠ a) :
+    l.tail.idxOf a = (l.idxOf a) - 1 := by
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/List/Basic.lean]: The parentheses should not be necessary

**Review by Ruben-VandeVelde — APPROVED** [review]
maintainer delegate

**Review by riccardobrasca — COMMENTED** [review]
Thanks!

bors merge
